US07759337B2
To a mixture of 15 mL LHMDS in 30 mL THF stirred at −78° C. under nitrogen was added a solution of 1-methylpiperidin-4-one (1.22 mL, 10 mmol). The mixture was stirred allowing the temperature to rise from about −78° C. to about −20° C. over a period of about 2 h. The mixture was then cooled to −78° C. again and treated with PhNTf2 (4.2 g, 12 mmol). The mixture was stirred from −78° C. to RT for 2 h. The reaction mixture was quenched with 50 mL sat. NH4Cl and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated via Rotavaporator. The crude product was purified via column eluting with 1:1 hexane/ethyl acetate to yield 1-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (2.2 g) as a pale yellow oil. Found MS (ES+): 246 (M+H)+.

reactant | LHMDS | 15 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-methylpiperidin-4-one | 10 mmol, 1.22 mL | CN1CCC(CC1)=O | C6H11NO
reactant | PhNTf2 | 12 mmol, 4.2 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 2.2 g | FC(S(=O)(=O)OC=1CCN(CC1)C)(F)F | C7H10F3NO3S
